US06894042B2
Methyl 3-hydroxy-4-[(trimethylsilyl)ethynyl]benzoate (3.0 g, 12.1 mmol) is dissolved in 1:1 EtOH/Et3N (30 mL), is treated with CuI (114 mg, 0.6 mmol), and the reaction is warmed to 75° C. for 3 h. The mixture is treated with DARCO and MeOH (15 mL) and heated to reflux for 1 h. The reaction is filtered through a fine fritted-glass funnel, the filtrate is treated with 3N NaOH (24.2 ml, 72.5 mmol), and the mixture is stirred overnight at RT. The mixture is concentrated to dryness, the residue is dissolved in H2O (20 mL), and the pH of the mixture is adjusted to 2 with 12N HCl. The resulting yellow precipitate is collected, washed with water, and is dried to give 1.83 g (93%) of benzofuran-6-carboxylic acid as a tan solid. HRMS (FAB) calcd for C9H6O3+H: 163.0395, found 163.0389 (M+H)+.

reactant | Methyl 3-hydroxy-4-[(trimethylsilyl)ethynyl]benzoate | 12.1 mmol, 3.0 g | OC=1C=C(C(=O)OC)C=CC1C#C[Si](C)(C)C | C13H16O3Si
reactant | DARCO | C | CH4
reactant | MeOH | 15 mL | CO | CH4O
reactant | NaOH | 72.5 mmol, 3N, 24.2 ml | [OH-].[Na+]
solvent | EtOH Et3N | 30 mL | CCO.CCN(CC)CC
catalyst | CuI | 0.6 mmol, 114 mg | [Cu]I
product | benzofuran-6-carboxylic acid | 1.83 g, 93% | O1C=CC2=C1C=C(C=C2)C(=O)O | C9H6O3
